US04499294
Methyl α-chloropalmitate (61 g, 0.20 m) was dissolved in 400 ml DMF and treated with lithium methoxide (8.35 g, 0.22 m) followed by portionwise addition of paraformaldehyde (6.3 g, 0.21 m) over a period of about eight hours. The reaction was stirred overnight, 12 hours after complete addition, at room temperature. It was worked up by extraction with hexane; the hexane was dried and evaporated to yield 53 g (89 percent) methyl 2-tetradecylglycidate (97 percent purity by glc) with m.p. 45°-48° C. after recrystallization from methanol.

reactant | Methyl α-chloropalmitate | 61 g | ClC(C(=O)OC)CCCCCCCCCCCCCC | C17H33ClO2
reactant | lithium methoxide | 8.35 g | C[O-].[Li+]
reactant | paraformaldehyde | 6.3 g | C=O | CH2O
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | methyl 2-tetradecylglycidate | 53 g | CC(CCCCCCCCCCCC)C1(C(=O)OC)CO1 | C18H34O3
